US06204249B1
4-Chloro-2-(isopropylamino)-1-(2,3,5-tri-O-acetyl-beta-L-ribofuranosyl)-1H-benzimidazole
4-Chloro-2-(isopropylamino)-1H -benzimidazole (2.24 g, 10.68 mmol), N,O-bis(trimethylsilyl)acetamide (3.00 mL, 2.47 g, 12.14 mmol), trimethylsilyl trifluoromethanesulfonate (1.2 mL, 1.42 g, 6.00 mmol), 1,2,3,5-tetra-O-acetyl-L-ribofuranose (4.46 g, 14.01 mmol) and 1,2-dichloroethane (35 mL) were used according to general procedure II. The product was purified by silica gel chromatography using 95:5 dichloromethane/acetonitrile to afford 2.34 g (47%) of an off-white foam. MS (EI): m/z 46.82 (M+H).

reactant | 4-Chloro-2-(isopropylamino)-1H -benzimidazole | 10.68 mmol, 2.24 g | ClC1=CC=CC=2NC(=NC21)NC(C)C | C10H12ClN3
reactant | N,O-bis(trimethylsilyl)acetamide | 12.14 mmol, 3.00 mL, 2.47 g | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | trimethylsilyl trifluoromethanesulfonate | 6.00 mmol, 1.2 mL, 1.42 g | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | 1,2,3,5-tetra-O-acetyl-L-ribofuranose | 14.01 mmol, 4.46 g | C(C)(=O)OC1[C@@H](OC(C)=O)[C@@H](OC(C)=O)[C@@H](O1)COC(C)=O | C13H18O9
solvent | 1,2-dichloroethane | 35 mL | ClCCCl | C2H4Cl2
product | 4-Chloro-2-(isopropylamino)-1-(2,3,5-tri-O-acetyl-beta-L-ribofuranosyl)-1H-benzimidazole | 2.34 g, 47% | ClC1=CC=CC=2N(C(=NC21)NC(C)C)[C@@H]2[C@@H](OC(C)=O)[C@@H](OC(C)=O)[C@@H](O2)COC(C)=O | C21H26ClN3O7
